US07491722B2
5-Acetyl-2-ethyl-4-[(8-fluoroquinolin-5-yl)amino]-6-phenylpyridazin-3(2H)-one
To a stirred solution of 150 mg (0.522 mmol) of 5-acetyl-2-ethyl-4-nitro-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in ethanol (8 mL), 5-amino-8-fluoroquinoline (127 mg, 0.783 mmol) (Lee, Jae Keun et al., Bull. Korean Chem. Soc., 1996, 17(1), 90) was added. The resulting mixture was stirred at room temperature for five hours. The solvent was evaporated and the residue purified by column chromatography (silica gel, hexane/ethyl acetate 3:1) to yield the title compound (140 mg, 66.7% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-phenylpyridazin-3(2H)-one | 0.522 mmol, 150 mg | C(C)(=O)C=1C(=CC(=C(C1)N1N=CC=CC1=O)CC)[N+](=O)[O-] | C14H13N3O4
reactant | 5-amino-8-fluoroquinoline | 0.783 mmol, 127 mg | NC1=C2C=CC=NC2=C(C=C1)F | C9H7FN2
reactant | ethanol | 8 mL | C(C)O | C2H6O
product | 5-Acetyl-2-ethyl-4-[(8-fluoroquinolin-5-yl)amino]-6-phenylpyridazin-3(2H)-one | 140 mg, 66.7% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=C2C=CC=NC2=C(C=C1)F | C23H19FN4O2
